US08008302B2
Step c) Formation of tert-butyl 4-(5-phenyl-1,2,4-oxadiazol-3-yl)piperazine-1-carboxylate
To a solution of tert-butyl 4-[(hydroxyamino)(imino)methyl]piperazine-1-carboxylate (7 g, 28.6 mmol) in anhydrous DCM (150 mL) was added benzoic acid (3.49 g, 28.6 mmol) followed by diisopropyl carbodiimide (DIC, 3.6 g, 28.6 mmol). The reaction mixture was stirred at RT for 8 hours and filtered. The filtrate was evaporated and the residue obtained was refluxed in pyridine (100 mL) for 3 hours. The solvent was removed under vacuum and the residue was dissolved in DCM. The organic layer was washed with a 10% aqueous solution of sodium bicarbonate, water and brine. The organic layer was dried and the solvent was evaporated. The residue was purified by chromatography using petrol ether/EtOAc (9/1) as eluent to afford 5 g (53%) of the title compound as a solid. TLC—Pet ether/EtOAc (9/1): Rf=0.7). HPLC purity: 96%.

reactant | tert-butyl 4-[(hydroxyamino)(imino)methyl]piperazine-1-carboxylate | 28.6 mmol, 7 g | ONC(N1CCN(CC1)C(=O)OC(C)(C)C)=N | C10H20N4O3
reactant | benzoic acid | 28.6 mmol, 3.49 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diisopropyl carbodiimide | 28.6 mmol, 3.6 g | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 4-(5-phenyl-1,2,4-oxadiazol-3-yl)piperazine-1-carboxylate | 5 g, 53% | C1(=CC=CC=C1)C1=NC(=NO1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H22N4O3
